US04342762
Preparation of (±)-2-benzyl-2-(3'-dimethylaminopropoxy)-1,7,7-trimethyl-bicyclo(2,2,1) heptane
A suspension of 3.9 g (0.1 mole) of sodium amide in 100 ml of anhydrous benzene is heated to boiling, and a solution of 24.4 g (0.1 mole) of (±)-2-benzyl-1,7,7-trimethyl-bicyclo(2,2,1)-heptan-2-ol in 100 ml of anhydrous benzene is added dropwise, under continuous stirring. When the addition of the above solution is completed the reaction mixture is boiled until the formation of ammonia gas is ceased, and while further continuing the stirring, a solution of 13.4 g (0.11 mole) of 1-dimethylamino-3-chloro-propane in 20 ml of anhydrous benzene is added. After boiling the mixture for further 6 hours it is cooled to 30° C., washed three times with 40 ml of water each, and extracted with a solution of 15 g (0.1 mole) of tartaric acid in 50 ml of water or with 0.11 mole of diluted aqueous hydrochloric acid. The aqueous solution cooled to 0°-5° C. is made alkaline to pH 10 with concentrated ammonium hydroxide. The base separated as an oil is extracted with dichloroethane. On distilling off the solvent, the residue is fractionated in vacuo.

reactant | sodium amide | 0.1 mole, 3.9 g | [NH2-].[Na+]
reactant | (±)-2-benzyl-1,7,7-trimethyl-bicyclo(2,2,1)-heptan-2-ol | 0.1 mole, 24.4 g | C(C1=CC=CC=C1)C1(C2(CCC(C1)C2(C)C)C)O | C17H24O
reactant | ammonia | N | H3N
reactant | 1-dimethylamino-3-chloro-propane | 0.11 mole, 13.4 g | CN(CCCCl)C | C5H12ClN
reactant | tartaric acid | 0.1 mole, 15 g | C(C(O)C(O)C(=O)O)(=O)O | C4H6O6
reactant | hydrochloric acid | 0.11 mole | Cl | ClH
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
solvent | water | 50 ml | O | H2O
product | (±)-2-benzyl-2-(3'-dimethylaminopropoxy)-1,7,7-trimethyl-bicyclo(2,2,1) heptane | C(C1=CC=CC=C1)C1(C2(CCC(C1)C2(C)C)C)OCCCN(C)C | C22H35NO
